US08492378B2
7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile
A mixture of 7-acetyl-4-iodo-7H-pyrrolo[2,3-d]pyrimidine (1.28 g, 4.46 mmol), zinc cyanide (427 mg, 2.45 mmol), tetrakis(triphenylphosphine)palladium(0) (258 mg, 0.223 mmol) and N,N-dimethylformamide (10 mL) was tightly sealed in a vial, and the microwave was irradiated at 150° C. for 20 min. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/1) to give the title compound (520 mg, yield 80%) as pale-yellow crystals.

reactant | 7-acetyl-4-iodo-7H-pyrrolo[2,3-d]pyrimidine | 4.46 mmol, 1.28 g | C(C)(=O)N1C=CC2=C1N=CN=C2I | C8H6IN3O
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 2.45 mmol, 427 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.223 mmol, 258 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile | 520 mg, yield 80% | N1=CN=C(C2=C1NC=C2)C#N | C7H4N4
